US05728835
4-Nitro-N-(4-fluorophenyl)benzamide
Using 4-fluoroaniline (1.0 ml, 9.93 mmol) and 4-nitrobenzoic acid (1.58 g, 9.36 mmol), the procedure of Reference Example 16 was repeated to obtain 1.60 g (65.8%) of the title compound in the form of light yellow needle crystals.

reactant | 4-fluoroaniline | 9.93 mmol, 1.0 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-nitrobenzoic acid | 9.36 mmol, 1.58 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(4-fluorophenyl)benzamide | 1.60 g, 65.8% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C13H9FN2O3
